US08664431B2
7.8 g (23.4 mmol) (2,3-diphenyl-2-hydroxy-3-oxopropyl)-3-chloro-propionate was dissolved in 75 ml acetone. 4.9 g (35.1 mmol) K2CO3 and 50 mg BHT were added and the mixture was refluxed for 5 hours. The inorganic salts were removed by filtration and the solvent was evaporated under reduced pressure. The residue was treated with 50 ml n.-hexane, 2,3-diphenyl-2-hydroxy-3-oxopropyl acrylate was isolated by filtration and dried. 6.3 g of 2,3-diphenyl-2-hydroxy-3-oxopropyl acrylate (91%) was isolated. Based on 1H-NMR-analysis the conversion proved to be 98%.

reactant | (2,3-diphenyl-2-hydroxy-3-oxopropyl)-3-chloro-propionate | 23.4 mmol, 7.8 g | C1(=CC=CC=C1)C(COC(CCCl)=O)(C(=O)C1=CC=CC=C1)O | C18H17ClO4
reactant | K2CO3 | 35.1 mmol, 4.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 2,3-diphenyl-2-hydroxy-3-oxopropyl acrylate | C(C=C)(=O)OCC(C(=O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C18H16O4
